US08404740B2
Benzylmethyl-[8-(4H-[1,2,3]triazin-1-yl)-1,4-dioxaspiro[4.5]dec-8-yl]amine
A solution of 1,4-dioxaspiro[4,5]decan-8-one (3.9 g, 25 mmol), N-benzylmethylamine (3.32 g, 3.54 ml, 27.5 mmol) and 1,2,3-triazole (2.07 g, 30 mmol) in toluene (40 ml) was heated for 8 h under reflux in a water separator (Dean-Stark). After cooling to room temperature, the reaction solution was directly used further.

reactant | 1,4-dioxaspiro[4,5]decan-8-one | 25 mmol, 3.9 g | O1CCOC12CCC(CC2)=O | C8H12O3
reactant | N-benzylmethylamine | 27.5 mmol, 3.54 ml, 3.32 g | C(C1=CC=CC=C1)CN | C8H11N
reactant | 1,2,3-triazole | 30 mmol, 2.07 g | N1N=NC=C1 | C2H3N3
reactant | water | O | H2O
reactant | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | Benzylmethyl-[8-(4H-[1,2,3]triazin-1-yl)-1,4-dioxaspiro[4.5]dec-8-yl]amine | C(C1=CC=CC=C1)CNC1(CCC2(OCCO2)CC1)N1N=NCC=C1 | C19H26N4O2
